US07348359B2
A mixture of 620 mg (2.1 mmol) 3,5-di-tert-butyl-2-methoxymethoxy phenylboronic acid, 377 mg (1.24 mmol) of 2-acetyl-4-iodo benzo[b]thiophene, 72 mg (0.105 mmol, 5%) Pd(PPh3)4 6 mL of ethanol, 1.25 mL of Na2CO3 in 8 mL of toluene was heated to reflux for 12 hours. After cooling and work-up, the crude product was purified over a short silica gel plug (eluent: ethyl acetate/hexane: 10/90) to give 368.6 mg (0.868 mmol, yield: 70%) of pure 2-acetyl-4-(2-methoxymethoxy-3,5-di-tert-butylphenyl)benzo[b]thiophene as a clear oil. 1H-NMR (CDCl3), δ: 7.84 (d, J=7.9 Hz, 1H), 7.79 (s, 1H), 7.53 (t, J=7.4 Hz, 1H), 7.46 (d, J=2.6 Hz, 1H), 7.44 (d, J=2.6 Hz, 1H), 7.19 (d, J=2.5 Hz, 1H), 4.47 (d, J=4.5 Hz, 1H), 4.06 (dd, J=14.2, 7.0 Hz, 2H), 2.81 (s, 3H), 2.54 (s, 3H), 2.02 (s, 3H), 1.49 (s, 9H), 1.33 (s, 9H), 1.23 (t, J=7.3 Hz, 3H).

reactant | 3,5-di-tert-butyl-2-methoxymethoxy phenylboronic acid | 2.1 mmol, 620 mg | C(C)(C)(C)C=1C(=C(C=C(C1)C(C)(C)C)B(O)O)OCOC | C16H27BO4
reactant | 2-acetyl-4-iodo benzo[b]thiophene | 1.24 mmol, 377 mg | C(C)(=O)C1=CC2=C(S1)C=CC=C2I | C10H7IOS
reactant | ethanol | C(C)O | C2H6O
reactant | Na2CO3 | 1.25 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 8 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd(PPh3)4 | 0.105 mmol, 6 mL, 72 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 2-acetyl-4-(2-methoxymethoxy-3,5-di-tert-butylphenyl)benzo[b]thiophene | 0.868 mmol, 368.6 mg, yield: 70% | C(C)(=O)C1=CC2=C(S1)C=CC=C2C2=C(C(=CC(=C2)C(C)(C)C)C(C)(C)C)OCOC | C26H32O3S
